US08034812B2
Production of N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-fluorophenyl]-1,3-dimethyl-1H-pyrazole-4-carboxamide
To a solution of 1,3-dimethyl-1H-pyrazole-4-carboxylic acid (140 mg, 1.0 mmol) and N,N-dimethylformamide (2 drops) in tetrahydrofuran (10 mL) was added oxalyl chloride (0.171 mL, 2.0 mmol) with stirring under ice-cooling, and the mixture was stirred at room temperature for 2 hr. The reaction mixture was concentrated under reduced pressure. The residue was dissolved in N-methylpyrrolidone (5 mL) with stirring under ice-cooling, N-[6-(3-amino-4-fluorophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (164 mg, 0.50 mmol) was added, and the mixture was stirred at room temperature for 18 hr. The reaction mixture was diluted with ethyl acetate (80 mL), and washed with 1N aqueous sodium hydroxide solution (10 mL) and water (10 mL×3). The organic layer was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/methanol=100/0→70/30) and recrystallized from ethyl acetate to give the title compound (88 mg, yield 39%) as a white solid. melting point 205° C.

reactant | 1,3-dimethyl-1H-pyrazole-4-carboxylic acid | 1.0 mmol, 140 mg | CN1N=C(C(=C1)C(=O)O)C | C6H8N2O2
reactant | oxalyl chloride | 2.0 mmol, 0.171 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-[6-(3-amino-4-fluorophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.50 mmol, 164 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1F | C16H14FN5O2
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 80 mL | C(C)(=O)OCC | C4H8O2
product | N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-fluorophenyl]-1,3-dimethyl-1H-pyrazole-4-carboxamide | 88 mg, yield 39% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=CC(=C(C2)NC(=O)C=2C(=NN(C2)C)C)F)C1 | C22H20FN7O3
